### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Groupoid): various induction principles for morphisms

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 1]
```diff
@@ -348,6 +348,20 @@ lemma morphismProperty_eq_top {W : MorphismProperty V.HomotopyCategory}
...
+    (comp : ∀ {x y z : V.HomotopyCategory} (f : x ⟶ y) (g : y ⟶ z),
+      motive f → motive g → motive (f ≫ g))
+    {x y : V.HomotopyCategory} (f : x ⟶ y) : motive f := by
+  let W : MorphismProperty V.HomotopyCategory := fun _ _ f ↦ motive f
+  have : W.IsMultiplicative :=
+    { id_mem x := by
+        obtain ⟨x, rfl⟩ := x.mk_surjective
+        simpa using! homMk (.id x)
+      comp_mem := comp }
+  exact (morphismProperty_eq_top (W := W) homMk).symm.le f (by simp)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:363]: Can you please also add a similar eliminator (that will call this one) for morphisms in `hoFunctor.obj _`?
I’m a bit worried that trying to call this one for morphisms between objects of `hoFunctor.obj X` (for `X` an `SSet` rather than a truncated simplicial object) is going to blast through the (semi-reducible) definition of `hoFunctor` and leave badly typed goals, which is why I think we should have both.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:367]: Thanks for the suggestion. I have done this in a follow-up PR #42673 as it required doing some refactor of `hoFunctor`. Some additional cleanup of the truncated simplicial sets will be necessary at some point because on objects `mapHomotopyCategory f` does not send `mk x` to `mk (f.app _ x)` at implicit transparency. (I was able to do it for the fundamental groupoid in #42523 though.) Part of the solution will be to make `SimplicialObject.truncation` `implicit_reducible`, but currenlty doing so seems to break proofs badly.

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by faenuccio** [comment]
Can you add (for each of the three recursors) a 1-2 lines doc explaining how to use them, perhaps with a small example?

**Comment by faenuccio** [comment]
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
